US04130579
In a 1-liter flask, equipped with a paddle stirrer, a reflux condenser, capped with a nitrogen bubbler, and an addition funnel, was placed 7.50 g of 1,3-bis(2-methyl-2-cyanopropyl)benzene and 250 ml of reagent grade toluene which had been passed through acid alumina under nitrogen directly into the reaction vessel. With stirring at room temperature, 107 ml of a 25% solution of diisobutylaluminum hydride in toluene was added in 1 hr. The mixture was refluxed for 17 hrs 15 min. The mixture was then worked up as described in Example 9(a). Upon distillation of the isolated product through a small Vigreux still, there was obtained 3.51 g of 1,3-bis(2,2-dimethyl-3-aminopropyl)benzene as a colorless liquid distilling at 105°-110°/0.05 mm.

reactant | 1,3-bis(2-methyl-2-cyanopropyl)benzene | 7.50 g | CC(CC1=CC(=CC=C1)CC(C)(C)C#N)(C)C#N | C16H20N2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3-bis(2,2-dimethyl-3-aminopropyl)benzene | 3.51 g | CC(CC1=CC(=CC=C1)CC(CN)(C)C)(CN)C | C16H28N2
